US04112234
N-Cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-(4-pentyn-1-yl)guanidine
A mixture of N-cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-S-methylisothiourea (3.00 g., 0.0111 mole) and 4-pentyn-1-amine (3.69 g., 0.0445 mole) in 60 ml. of acetonitrile was stirred at reflux for 24 hours, and then allowed to stand at room temperature for 96 hours. The solvent and excess amine were removed under reduced pressure and the residual yellow gum was purified by chromatography on 50 g. of 100-200 mesh silica gel, using gradient elution with methylene chloride/methanol (99:1-96:4). The middle fractions indicated by TLC to be pure were combined and evaporated to give 1.91 g. of yellow gum which was crystallized at -15° C from 18 ml. of ethyl acetate. The resulting white solid (1.25 g.) was recrystallized at -15° C from 10 ml. of acetonitrile to give 1.063 g. of product; m.p. 99°-103° C.

reactant | N-cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-S-methylisothiourea | 0.0111 mole, 3.00 g | C(#N)NC(SC)=NCCSCC1=C(N=CN1)C | C10H15N5S2
reactant | 4-pentyn-1-amine | 0.0445 mole, 3.69 g | C(CCC#C)N | C5H9N
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-(4-pentyn-1-yl)guanidine | C(#N)NC(=NCCCC#C)NCCSCC1=C(N=CN1)C | C14H20N6S
